US07723336B2
In a 250 ml round bottom flask, under a nitrogen atmosphere, was added 8-bromo-6-chloroimidazo[1,2-b]pyridazine (5.0 g, 18.6 mmol) from Example I(1), step 1b, tert-butyl 4-aminobenzoate (3.95 g, 20.5 mmol), and DMF (30 ml). The solution was cooled to 0° C. and 1.0 M potassium tert-butoxide in THF (46 ml) was added dropwise via syringe over 30 minutes. The reaction was allowed to stir at room temperature for 30 minutes and then warmed to 50° C. for 2 hrs and then concentrated in vacuo to remove THF. The resulting solution was taken up in ethyl acetate, washed with H2O (3×300 ml) and then brine (1×50 ml). The organic layers were combined, dried over Na2SO4 and filtered. Following solvent evaporation, 6.0 g of crude product was obtained. Further purification was done via triteration with 3:1 diethyl ether/heptane to give 2.2 g of tert-butyl 4-(6-chloroimidazo[1,2-b]pyridazin-8-ylamino)benzoate as a brown solid after filtration.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 18.6 mmol, 5.0 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | tert-butyl 4-aminobenzoate | 20.5 mmol, 3.95 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
solvent | THF | 46 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(6-chloroimidazo[1,2-b]pyridazin-8-ylamino)benzoate | 2.2 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C(=O)OC(C)(C)C)C=C2 | C17H17ClN4O2
